US04609396
Methyl 2-[4-(2-quinoxalinyloxy)phenoxy]propanoate
In a nitrogen atmosphere, a solution of 5.9 g (0.03 mole) methyl 2-(4-hydroxyphenoxy)propanoate in 20 cc of dimethylformamide was added dropwise at about 15° C. to 1.5 g (0.03 mole) 57% sodium hydride in 20 cc dimethylformamide. When the evolution of hydrogen ceased, 4.9 g (0.03 mole) 2-chloroquinoxaline was added and the reaction mixture was heated at 130° C. for 4 hours. After standing overnight at room temperature, the reaction mixture was poured into about 100 cc of cold water. The precipitated solid was filtered and crystallized from methanol to give 4.2 g of product, m.p. 110°-115°.

reactant | methyl 2-(4-hydroxyphenoxy)propanoate | 0.03 mole, 5.9 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
reactant | sodium hydride | 0.03 mole | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-chloroquinoxaline | 0.03 mole, 4.9 g | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | water | about 100 cc | O | H2O
product | Methyl 2-[4-(2-quinoxalinyloxy)phenoxy]propanoate | 4.2 g | N1=C(C=NC2=CC=CC=C12)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C18H16N2O4
